US06294580B1
5-Methylisoxazole-3-thiocarboxamide
A suspension of 525 mg (4.16 mmol) of 5-methylisoxazole-3-carboxamide and 1.85 g (4.58 mmol, 1.1 equiv) of Lawesson's reagent in 15 mL of dry toluene was heated to reflux for 5 h, during which time the reaction mixture became a clear yellow color. The reaction mixture was cooled to RT and the solvent was removed in vacuo. Purification of the material by silica gel flash column chromatography using a gradient of hexane/EtOAc 5/1 to hexane/EtOAc 1/1 as eluent followed by trituration with acetonitrile, filtration to remove the solid Lawesson's reagent byproducts and removal of solvent afforded 614 mg of the title compound as a yellow oil: 1H NMR (CDCl3, 300 MHz) δ 8.05 (s, br, 2H), 6.52 (s, 1H), 2.46 (s, 3H).

reactant | 5-methylisoxazole-3-carboxamide | 4.16 mmol, 525 mg | CC1=CC(=NO1)C(=O)N | C5H6N2O2
reactant | Lawesson's reagent | 4.58 mmol, 1.85 g, 1.1 equiv | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Methylisoxazole-3-thiocarboxamide | 614 mg | CC1=CC(=NO1)C(N)=S | C5H6N2OS
